US06303593B1
Preparation of 4-(3-phenyl-1-hydroxypropyl)piperidine
To a solution of 5 mL (34.5 mmol) of (2-iodoethyl)benzene in 100 mL of ether at −78° C. was added 42.6 mL (72.5 mmol) of t-butyl lithium. The reaction mixture was warmed to −20° C. for 20 min, then cooled to −78° C. TO this solution, was added a solution of 5.6 g (23.2 mmol) of 1-t-butoxy carbonyl-4-formylpiperidine in 50 mL of ether and the reaction mixture was stirred 15 min at −78° C. To the reaction mixture was added 150 mL of a sat'd solution of NH4Cl and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. Removal of the BOC protecting group was achieved as described in Example 233, Step 6 to give the title compound.

reactant | (2-iodoethyl)benzene | 34.5 mmol, 5 mL | ICCC1=CC=CC=C1 | C8H9I
reactant | t-butyl lithium | 72.5 mmol, 42.6 mL | C(C)(C)(C)[Li]
reactant | 1-t-butoxy carbonyl-4-formylpiperidine | 23.2 mmol, 5.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-(3-phenyl-1-hydroxypropyl)piperidine | C1(=CC=CC=C1)CCC(O)C1CCNCC1 | C14H21NO
